US06352976B1
(S)-2-Mercapto-3-methylbutyroyl-(L)-homo-phenylalanyl-(L)-phenylalanine
Combine Fmoc-(L)-phenylalanine-NovaSyn® TGT resin (1.0 g, 0.15 mmol/g, Nova Biochem), dimethylformamide (3 mL) and 50% piperidine/dimethylformamide (3 mL). After 5 minutes, filter, add dimethylformamide (3 mL) and 50% piperidine/dimethylformamide (3 mL), bubble for 10 minutes, and filter. Rinse the resin with dimethylformamide (10 times 5 mL), dichloromethane (3 times 5 mL), and then dimethylformamide (5 mL). Kaiser (ninhydrin) test indicates complete deprotection. Add Fmoc-(L)-homophenylalanine (0.240 g, 0.5 mmol), O-(7-azabenzotriazol-1-yl)-1,1,3,3-tetramethyluronium hexafluorophosphate (0.228 g, 0.60 mmol), and N,N-diisopropylethylamine (0.21 mL, 1.20 mmol), and dimethylformamide (5 mL). After 15 hours, filter, rinse the resin with dimethylformamide (9 times 5 mL), dichloromethane (3 times 5 mL), and then dimethylformamide (5 mL). Add dimethylformamide (3 mL) and 50% piperidine/dimethylformamide (3 mL), bubble for 10 minutes, and filter. Rinse the resin with dimethylformamide (10 times 5 mL), dichloromethane (3 times 5 mL), and then dimethylformamide (5 mL). Kaiser (ninhydrin) test indicates complete deprotection. Add (R)-2-bromo-3-methylbutyric acid (0.145 g, 0.6 mmol), 1,3-diisopropylcarbodiimide (0.076 g, 0.60 mmol), and N,N-diisopropylethylamine (0.21 mL, 1.20 mmol) in N-methylpyrrolidinone (5 mL). After 15 hours, filter, rinse the resin with dimethylformamide (9 times 5 mL), dichloromethane (3 times 5 mL), and then dimethylformamide (5 mL). Combine the resin with a degassed solution of potassium thioacetate (0.137 g, 1.2 mmol) in N-methylpyrolidinone (5 mL). After 3 hours, filter and rinse the resin with dimethylformamide (9 times 5 mL). Combine the resin with a degassed saturated methanolic ammonia solution (5 mL). After 5 minutes, filter and rinse the resin with methanol (5 times 5 mL). Combine the resin and a degassed 95% trifluoroacetic acid/4% water/1% 2-mercaptoethanol solution (10 mL). After 3 hours, filter, rinse with 50% trifluoroacetic acid/dichloromethane (2 times 10 mL). Concentrate the filtrate in vacuo to give a residue. Combine the residue with 1% trifluoroacetic acid/acetonitrile solution and evaporate under a stream of nitrogen to give a residue. Combine the residue and water (about 4 mL) and lyophilize to give a residue. Combine the residue and acetonitrile and water and again lyophilize to give a residue. Purify by HPLC to give the title compound: retention time=4:24 minutes, YMC Inc. 4.0 mm×50 mm ODS-A column, flow rate 1.0 mL/minute, initial conditions 70% A (95% water/5% acetonitrile/0.1% trifluoroacetic acid) and 30% B (5% water/95% acetonitrile/0.085% trifluoracetic acid) and a linear gradient over 5 minutes to 100% B. Mass Spectrum (MH+=443).

reactant | piperidine dimethylformamide | 3 mL | N1CCCCC1.CN(C=O)C
reactant | Fmoc-(L)-homophenylalanine | 0.5 mmol, 0.240 g | C(=O)(OCC1C2=CC=CC=C2C2=CC=CC=C12)N[C@@H](CCC1=CC=CC=C1)C(=O)O | C25H23NO4
reactant | O-(7-azabenzotriazol-1-yl)-1,1,3,3-tetramethyluronium hexafluorophosphate | 0.60 mmol, 0.228 g | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1N=CC=C2)OC(=[N+](C)C)N(C)C
reactant | N,N-diisopropylethylamine | 1.20 mmol, 0.21 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | (R)-2-bromo-3-methylbutyric acid | 0.6 mmol, 0.145 g | Br[C@@H](C(=O)O)C(C)C | C5H9BrO2
reactant | 1,3-diisopropylcarbodiimide | 0.60 mmol, 0.076 g | C(C)(C)N=C=NC(C)C | C7H14N2
reactant | N,N-diisopropylethylamine | 1.20 mmol, 0.21 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | potassium thioacetate | 1.2 mmol, 0.137 g | C(C)(=S)[O-].[K+]
reactant | trifluoroacetic acid acetonitrile | FC(C(=O)O)(F)F.C(C)#N
solvent | N-methylpyrrolidinone | 5 mL | CN1C(CCC1)=O | C5H9NO
solvent | N-methylpyrolidinone | 5 mL | CN1C(CCC1)=O | C5H9NO
solvent | water | O | H2O
solvent | acetonitrile | C(C)#N | C2H3N
solvent | water | about 4 mL | O | H2O
solvent | dimethylformamide | 5 mL | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 3 mL | CN(C=O)C | C3H7NO
product | (S)-2-Mercapto-3-methylbutyroyl-(L)-homo-phenylalanyl-(L)-phenylalanine | SC1=C(CC[C@H](NC(CC(C)C)=O)C(=O)N[C@@H](CC2=CC=CC=C2)C(=O)O)C=CC=C1 | C24H30N2O4S
